US06423713B1
A slurry of 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate (150 mg, 0.31 mmol) from above in methanol (10 mL) was treated with a solution of sodium hydroxide (12 mg, 0.31 mmol) in methanol (2 mL). The reaction was stirred at room temperature for 15 minutes until dissolution was completed. The solvent was removed in vacuo. The residue was treated with tetrahydrofuran and filtered and air dried to give 150 mg (97%) of 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, monosodium salt dihydrate as a solid. Anal. Calc'd. for C22H21ClN5O3Na.2H2O: C, 53.07; H, 5.06; N, 14.07. Found: C, 52.81; H, 5.11; N, 13.90.

reactant | 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate | 0.31 mmol, 150 mg | O.O.ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(CCC(=O)O)=O)C1=CC=NC=C1
reactant | sodium hydroxide | 0.31 mmol, 12 mg | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
product | 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid | 150 mg, 97% | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(CCC(=O)O)=O)C1=CC=NC=C1 | C22H22ClN5O3
